US05910498
6,7-difluoro-1,4-dihydro-4-oxo-1-(2,3,4-trifluoro-5-nitrophenyl)-quinoline-3-carboxylic acid
To 10 ml of conc. sulfuric acid was added 830 mg of 6,7-difluoro-1,4-dihydro-4-oxo-1-(2,3,4-trifluorophenyl)-quinoline-3-carboxylic acid. Potassium nitrate (710 mg) was added in portions to the solution, which was stirred at 100° C. for 3 days. The reaction solution was allowed to cool, poured into ice water, and stirred overnight. The precipitated solid was collected by filtration, washed with water, ethanol and diethyl ether to give 700 mg of the title compound.

reactant | 6,7-difluoro-1,4-dihydro-4-oxo-1-(2,3,4-trifluorophenyl)-quinoline-3-carboxylic acid | 830 mg | FC=1C=C2C(C(=CN(C2=CC1F)C1=C(C(=C(C=C1)F)F)F)C(=O)O)=O | C16H6F5NO3
reactant | Potassium nitrate | 710 mg | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 6,7-difluoro-1,4-dihydro-4-oxo-1-(2,3,4-trifluoro-5-nitrophenyl)-quinoline-3-carboxylic acid | 700 mg | FC=1C=C2C(C(=CN(C2=CC1F)C1=C(C(=C(C(=C1)[N+](=O)[O-])F)F)F)C(=O)O)=O | C16H5F5N2O5
